US08703761B2
A. 2-(3,4-Diethoxy-benzoylamino)-2-methyl-propionic acid
210 mg of 3,4-diethoxybenzoic acid and 160 mg of methyl aminoisobutyrate were stirred in 3 ml of DMF at room temperature. It was treated with 440 mg of HATU and 0.4 ml of DIEA at the same temperature and the reaction was stirred for 2 days. The reaction was monitored by LC-MS, which indicated complete consumption of the starting materials. Product LC-MS (m/z 310.1). This crude reaction mixture was then diluted with 3 ml of water followed by an addition of 250 mg of LiOH. The reaction mixture was stirred at room temperature overnight and the LC-MS analysis indicated the reaction was completed. The reaction mixture was neutralized by 6N-HCl and the resulting creamy precipitates were collected by filtration and washed with water (50 ml). Drying the filter cake yielded the title compound. m/z 296.1 (MH+).

reactant | 3,4-diethoxybenzoic acid | 210 mg | C(C)OC=1C=C(C(=O)O)C=CC1OCC | C11H14O4
reactant | methyl aminoisobutyrate | 160 mg | NC(C(=O)OC)(C)C | C5H11NO2
reactant | HATU | 440 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.4 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | LiOH | 250 mg | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | 3 ml | O | H2O
product | 2-(3,4-Diethoxy-benzoylamino)-2-methyl-propionic acid | C(C)OC=1C=C(C(=O)NC(C(=O)O)(C)C)C=CC1OCC | C15H21NO5
